US07276612B2
Sodium hydride (15 mg, 0.56 mmol) was suspended in anhydrous DMF and stirred under N2(g). 2,2,2-Trifluoroethanol (270 μL, 3.7 mmol) was added and after stirring the reaction mixture for 15-20 min., 3-bromomethylbenzofuran-2-carboxylic acid methyl ester was added. After 8 h, 1N NaOH (aq.) was added and the reaction mixture was stirred for 10-15 min. The reaction mixture was acidified reaction to pH 3 with aqueous hydrochloric acid and the product was extracted with EtOAc. The organic layer was dried organic over Na2SO4 and concentrated in vacuo to give 3-(2,2,2-trifluoroethoxymethyl)benzofuran-2-carboxylic acid (38 mg) which was then used without purification.

reactant | Sodium hydride | 0.56 mmol, 15 mg | [H-].[Na+]
reactant | 2,2,2-Trifluoroethanol | 3.7 mmol, 270 μL | FC(CO)(F)F | C2H3F3O
reactant | 3-bromomethylbenzofuran-2-carboxylic acid methyl ester | COC(=O)C=1OC2=C(C1CBr)C=CC=C2 | C11H9BrO3
reactant | NaOH | 1N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2,2,2-trifluoroethoxymethyl)benzofuran-2-carboxylic acid | 38 mg | FC(COCC1=C(OC2=C1C=CC=C2)C(=O)O)(F)F | C12H9F3O4
